US06326368B1
To a solution of 3-bromo-4-[[4-chloro-6-methyl-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol (3.0 g) in anhydrous 1,4-dioxane (80 mL), morpholine (1.39 mL) was added and the solution was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residue was taken up in water and extracted with methylene chloride. The extracts were combined and dried over MgSO4. The solvent was stripped under reduced pressure and the residue was purified on silica gel using a 2:1 mixture of ethyl acetate and hexane to yield 3-bromo-4-[[6-methyl-4-(4-morpholinyl)-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol as a colorless powder, mp 199-201° C.

reactant | 3-bromo-4-[[4-chloro-6-methyl-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol | 3.0 g | BrC=1C=C(C=C(C1OC1=NC(=NC(=N1)Cl)C)OC)C(O)(C)C | C14H15BrClN3O3
reactant | morpholine | 1.39 mL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 3-bromo-4-[[6-methyl-4-(4-morpholinyl)-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol | BrC=1C=C(C=C(C1OC1=NC(=NC(=N1)N1CCOCC1)C)OC)C(O)(C)C | C18H23BrN4O4
